US07384967B2
(2-{-2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl amino)-acetic acid (18 mg, 95%) was prepared from (2-{-2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl amino)-acetic acid ethyl ester (0.02 g, 0.05 mmol) and 2.5M LiOH (20 uL) following the general procedure J.

reactant | (2-{-2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl amino)-acetic acid ethyl ester | 0.05 mmol, 0.02 g | C(C)OC(CNCCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C23H30N4O4S
solvent | LiOH | 2.5M, 20 uL | [Li+].[OH-]
product | (2-{-2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl amino)-acetic acid | 18 mg, 95% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCNCC(=O)O)=O | C21H26N4O4S
